US08227458B2
cis/trans-4-(Pyrimidin-4-yloxy)-cyclohexanecarboxylic acid (1:1)
To a solution of cis/trans-4-(pyrimidin-4-yloxy)-cyclohexanecarboxylic acid ethyl ester (1:1) (0.90 g, 3.6 mmol) in 1,4-dioxane (18 ml) was added 2 M aqueous sodium hydroxide solution (18 ml, 36 mmol). Stirring at room temperature for 3 h was followed by acidification to pH 2-3 with 1 M aqueous hydrogen chloride solution (42 ml) and extraction with four 100-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound (0.76 g, 95%) as white solid.

reactant | trans-4-(pyrimidin-4-yloxy)-cyclohexanecarboxylic acid ethyl ester | 3.6 mmol, 0.90 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)OC1=NC=NC=C1 | C13H18N2O3
reactant | sodium hydroxide | 36 mmol, 2 M, 18 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | trans-4-(Pyrimidin-4-yloxy)-cyclohexanecarboxylic acid | 0.76 g, 95% | N1=CN=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)O | C11H14N2O3
